US06974831B2
2-[[3-(2-amino-1,2-dioxoethyl)-1-[2-(5-bromothiophen-2-yl)benzyl]-2-methyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester
Preparation of 2-[(1-[2-(5-bromothiophen-2-yl)benzyl]-2-methyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl)oxy]acetic acid methyl ester. To a solution of 2-methyl-4-methoxy-1,6,7,8-tetrahydrocyclopent[g]indole (517 mg, 2.57 mmol) in N,N-dimethylformamide (10 mL) was added a dispersion of 60% sodium hydride in mineral oil (120 mg). After gas evolution had ceased, a solution of 2-bromo-5-(2-bromomethylphenyl)thiophene (975 mg, 3.85 mmol) in N,N-dimethylformamide (5 mL) was added over 2-3 min. The resulting mixture was stirred for 108 h, diluted with water, and extracted with a 1:1 mixture of ether/hexane. The organic phase was washed twice with water, concentrated in vacuo, dissolved in methylene chloride, and passed through a pad of silica gel. The filtrate was concentrated in vacuo and the residue dissolved in methylene chloride (10 mL), cooled to 0° C., and treated with boron tribromide (0.11 mL, 2.0 mmol). The mixture was allowed to warm to room temperature and stir for 2 h. Methanol (2 mL) was added followed by saturated sodium bicarbonate solution (˜30 mL). The resulting mixture was extracted twice with methylene chloride. The combined organic layers were dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was immediately dissolved in N,N-dimethylformamide (5 mL) and treated with cesium carbonate (490 mg, 1.5 mmol) and methyl bromoacetate (0.14 mL, 1.5 mmol) at room temperature for 18 h. The mixture was diluted with water, stirred for 30 min, and the resulting solid collected via vacuum filtration. Chromatography (silica gel, hexane/methylene chloride) provided 187 mg (14%) of the title compound as a beige solid. 1H NMR (CDCl3) δ 7.36 (d, J=7 Hz, 1H), 7.23 (t, J=8 Hz, 1H), 7.13 (t, J=8 Hz, 1H), 7.10 (d, J=4 Hz, 1H), 6.86 (d, J=4 Hz, 1H), 6.45 (s, 1H), 6.33 (s, 1H), 6.32 (d, J=7 Hz, 1H), 5.41 (s, 2H), 4.75 (s, 2H), 3.81 (s, 3H), 2.85 (m, 4H), 2.22 (s, 3H), 2.01 (quintet, J=7 Hz, 2H); MS ES+ m/e 509, 511 (p+1).

reactant | 2-[(1-[2-(5-bromothiophen-2-yl)benzyl]-2-methyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl)oxy]acetic acid methyl ester | COC(COC1=C2C=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)C=2SC(=CC2)Br)C)=O | C26H24BrNO3S
reactant | 2-methyl-4-methoxy-1,6,7,8-tetrahydrocyclopent[g]indole | 2.57 mmol, 517 mg | CC=1NC2=C3C(=CC(=C2C1)OC)CCC3 | C13H15NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromo-5-(2-bromomethylphenyl)thiophene | 3.85 mmol, 975 mg | BrC=1SC(=CC1)C1=C(C=CC=C1)CBr | C11H8Br2S
reactant | boron tribromide | 2.0 mmol, 0.11 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | ˜30 mL | C([O-])(O)=O.[Na+]
reactant | cesium carbonate | 1.5 mmol, 490 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 1.5 mmol, 0.14 mL | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Methanol | 2 mL | CO | CH4O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-1-[2-(5-bromothiophen-2-yl)benzyl]-2-methyl-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 187 mg, 14% | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)C=2SC(=CC2)Br)C)C(C(=O)N)=O)=O | C28H25BrN2O5S
